US08981084B2
6-(4-(4-Cyano-2,2-dimethylbutanoyl)-3-methylpiperazin-1-yl)nicotinonitrile
This compound was synthesized from 6-(3-methylpiperazin-1-yl)nicotinonitrile and 4-cyano-2,2-dimethylbutanoic acid as described for example 37 step 3 (400 mg, yield 17%) as yellow viscous liquid. 1H NMR (300 MHz, MeOD) δ 8.40-8.39 (dd, J=2.2 Hz, 0.7 Hz, 1H), 7.76-7.72 (dd, J=9.1 Hz, 2.3 Hz, 1H), 6.86-6.83 (d, J=9.0 Hz, 1H), 4.69-4.65 (m, 1H), 4.32-4.22 (m, 3H), 3.41-3.35 (m, 2H), 3.20-3.14 (m, 1H), 2.50-2.45 (m, 2H), 2.04-1.95 (m, 2H), 1.33 (s, 6H), 1.20-1.18 (m, 3H). MS (ESI) m/z: Calculated for C18H23N5O: 325.19. found: 326.1 (M+H)+

reactant | 6-(3-methylpiperazin-1-yl)nicotinonitrile | CC1CN(CCN1)C1=NC=C(C#N)C=C1 | C11H14N4
reactant | 4-cyano-2,2-dimethylbutanoic acid | C(#N)CCC(C(=O)O)(C)C | C7H11NO2
product | 6-(4-(4-Cyano-2,2-dimethylbutanoyl)-3-methylpiperazin-1-yl)nicotinonitrile | yield 17% | C(#N)CCC(C(=O)N1C(CN(CC1)C1=NC=C(C#N)C=C1)C)(C)C | C18H23N5O
